US05705585
74.08 g (1 mol) of N-methyl urea and 216.2 g (1 mol) diethylethoxymethylenemalonate were heated together at 122° C. for 24 hours, followed by 170° C. for 12 hours, to give the 3-methyluracil-5-carboxylic acid ethyl ester in 35% yield (following recrystallization from ethyl acetate).

reactant | N-methyl urea | 1 mol, 74.08 g | CNC(=O)N | C2H6N2O
reactant | diethylethoxymethylenemalonate | 1 mol, 216.2 g | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
product | 3-methyluracil-5-carboxylic acid ethyl ester | 35% yield | C(C)OC(=O)C=1C(N(C(NC1)=O)C)=O | C8H10N2O4
